US06486184B2
A solution of rac-(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetic acid methyl ester (350 mg, 0.98 mmol) in ethanol (15 mL) at 25° C. was treated with a solution of potassium hydroxide (273 mg, 4.88 mmol) in water (2.5 mL) and the solution was stirred at 25° C. After 3 h, the reaction was diluted with water and concentrated under reduced pressure. The concentrate was acidified to pH 2 with an aqueous solution of 1N hydrochloric acid and extracted with dichloromethane (3×15 mL). The combined organic layers were dried over sodium sulfate, filtered and evaporated under reduced pressure. The residual material was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate plus 1% acetic acid) to give rac-(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetic acid (265 mg, 79% yield) as a colorless oil: EI-HRMS m/e calcd for C15H17ClSO5 (M+) 344.0485, found 344.0494.

reactant | rac-(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetic acid methyl ester | 0.98 mmol, 350 mg | COC(C(OC1C=CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C16H19ClO5S
reactant | potassium hydroxide | 4.88 mmol, 273 mg | [OH-].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 2.5 mL | O | H2O
product | rac-(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetic acid | 265 mg, 79% yield | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)OC1C=CCCC1 | C15H17ClO5S
